datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C([O-])C([NH2+]CC[NH:10]C(C(=O)[O-])c1ccccc1O)c1ccccc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C([NH2+]CC[NH+:10](C(C(=O)[O-])c1ccccc1O)[H:20])c1ccccc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCC[NH+:10](CCC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].COP(=O)([O-])[N:21](S(=O)(=O)c1ccccc1)[H:20]>>CCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].COP(=O)([O-])[N-:21]S(=O)(=O)c1ccccc1 10=20;20,21=21",
"Cc1ccnc([S-])[n:10]1.NC(=O)C(c1ccccc1)c1cccc[n+:21]1[H:20]>>Cc1ccnc([S-])[n+:10]1[H:20].NC(=O)C(c1ccccc1)c1cccc[n:21]1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
"CC(C)(CN)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(CN)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ncnc2c1[nH]c[n:10]2.Nc1nc2[nH+]c[nH]c2c[n+:21]1[H:20]>>COc1ncnc2c1[nH]c[n+:10]2[H:20].Nc1nc2[nH+]c[nH]c2c[n:21]1 10=20;20,21=21",
"CC(C)(c1ccccc1)[NH2:10].O=C([C@H]1C[C@H]2CC[C@@H]1C2)[O:21][H:20]>>CC(C)(c1ccccc1)[NH2+:10][H:20].O=C([C@H]1C[C@H]2CC[C@@H]1C2)[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CCOc1ccccc1C(=O)N[O-:10].Cc1nnc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])s1>>CC[NH+](CC)CCOc1ccccc1C(=O)N[O:10][H:20].Cc1nnc([N-:21]S(=O)(=O)c2ccc(N)cc2)s1 10=20;20,21=21",
"CN(C(=O)C(C)(C)C)[O:21][H:20].NC(CC/C(N)=[N:10]\O)=NO>>CN(C(=O)C(C)(C)C)[O-:21].NC(CC/C(N)=[N+:10](\O)[H:20])=NO 10=20;20,21=21",
"CC(C)O[O-:10].Cc1ccc(S(=O)[O:21][H:20])cc1>>CC(C)O[O:10][H:20].Cc1ccc(S(=O)[O-:21])cc1 10=20;20,21=21",
"CC(C)(C(=O)[O:21][H:20])C(C(N)=O)c1ccccc1.CC(C)[NH2+]CC(O)c1cccc([NH2:10])c1>>CC(C)(C(=O)[O-:21])C(C(N)=O)c1ccccc1.CC(C)[NH2+]CC(O)c1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"C[N:10](C)c1cccc([N+](=O)[O-])c1.OC[C@@H]1O[C@H](n2c[n+:21]([H:20])c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O>>C[N+:10](C)(c1cccc([N+](=O)[O-])c1)[H:20].OC[C@@H]1O[C@H](n2c[n:21]c3ccccc32)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"CC[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.O=C(/C=N/O)NCC[N:10]1CCOCC1>>CC[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.O=C(/C=N/O)NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CN1C(=O)c2ncn(C)c2[N:21]([H:20])C1=O.O[C@H]1[C@H](O)[C@@H](n2c[n:10]c3ccccc32)OC[C@H]1O>>CN1C(=O)c2ncn(C)c2[N-:21]C1=O.O[C@H]1[C@H](O)[C@@H](n2c[n+:10]([H:20])c3ccccc32)OC[C@H]1O 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+](CC)Cc1cc(Cl)cc(Cl)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH2+]CCN(C)CC[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH2+]CCN(C)CC[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=C(c1ccccc1)N(c1ccccc1)[O:21][H:20].OCCn1c[n:10]c2ccccc21>>O=C(c1ccccc1)N(c1ccccc1)[O-:21].OCCn1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCC(=O)[O-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[NH-:10].O=C(c1cccc(O)c1)[O:21][H:20]>>CC(C(N)=O)S(=O)(=O)[NH:10][H:20].O=C(c1cccc(O)c1)[O-:21] 10=20;20,21=21",
"C[NH+](C)CCOCC[N:10](C)C.O=Cc1ccccc1B(O)[O:21][H:20]>>C[NH+](C)CCOCC[N+:10](C)(C)[H:20].O=Cc1ccccc1B(O)[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n:10]1.c1coc(CNCC[NH+:21](Cc2ccco2)[H:20])c1>>CC[NH+](CC)CCNc1nc(Nc2ccc(Cl)cc2)cc(C)[n+:10]1[H:20].c1coc(CNCC[NH:21]Cc2ccco2)c1 10=20;20,21=21",
"O=Cc1cc[n+:21]([H:20])cc1O.c1cncc(-c2[nH]c3ccccc3[n:10]2)c1>>O=Cc1cc[n:21]cc1O.c1cncc(-c2[nH]c3ccccc3[n+:10]2[H:20])c1 10=20;20,21=21",
"Cc1ccc(C(OCC[N:10](C)C)c2ccccc2)cc1.N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2+:21][H:20]>>Cc1ccc(C(OCC[N+:10](C)(C)[H:20])c2ccccc2)cc1.N[C@H]1C[C@H]2CCCC[C@@H]2C[C@@H]1[NH2:21] 10=20;20,21=21",
"CCCCCCC(=O)[O-:10].c1cc(CCCCC[NH2+:21][H:20])ccn1>>CCCCCCC(=O)[O:10][H:20].c1cc(CCCCC[NH2:21])ccn1 10=20;20,21=21",
"Cc1ccc([N+](=O)[O-])cc1C(=O)[O-:10].Cc1ccc2[nH]c(CO)[n+:21]([H:20])c2c1>>Cc1ccc([N+](=O)[O-])cc1C(=O)[O:10][H:20].Cc1ccc2[nH]c(CO)[n:21]c2c1 10=20;20,21=21",
"COc1cccc([NH:10]CCS)c1.O=C([O-])/C=C\C[NH2+:21][H:20]>>COc1cccc([NH+:10](CCS)[H:20])c1.O=C([O-])/C=C\C[NH2:21] 10=20;20,21=21",
"C[n+]1ccccc1-c1cccc[n+:21]1[H:20].Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O-:10]>>C[n+]1ccccc1-c1cccc[n:21]1.Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O:10][H:20] 10=20;20,21=21",
"CC(O)c1cccc([O-:10])c1CO.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O:21][H:20])nc1NCCc1ccccc1>>CC(O)c1cccc([O:10][H:20])c1CO.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O-:21])nc1NCCc1ccccc1 10=20;20,21=21",
